US05124478
Ethyl 2,4-dimethoxycinnamate
83 g of 2,4-dimethoxybenzaldehyde and 66 g of monoethyl malonate are dissolved in 100 ml of dry pyridine and, after addition of 1 ml of piperidine and 40 g of molecular sieves, refluxed until evolution of CO2 has ceased. The reaction mixture is cooled and then poured onto crushed ice, and the pH is adjusted to 1-2 with concentrated hydrochloric acid, while stirring. Stirring is continued for 20 minutes, and the product which has separated out is filtered off with suction, washed with 1 N hydrochloric acid and water and dried in a desiccator. Yield: 100.2 g, melting point 58° C.

reactant | 2,4-dimethoxybenzaldehyde | 83 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | monoethyl malonate | 66 g | C(CC(=O)[O-])(=O)OCC
reactant | piperidine | 1 ml | N1CCCCC1 | C5H11N
reactant | CO2 | C(=O)=O | CO2
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | Ethyl 2,4-dimethoxycinnamate | COC1=C(C=CC(=O)OCC)C=CC(=C1)OC | C13H16O4
